US08258144B2
2-(4-(4-acetylpiperazin-1-yl)phenylamino)-4-(piperidin-4-ylmethylamino)-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile
A mixture of tert-butyl 4-((2-chloro-5-cyano-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)methyl)piperidine-1-carboxylate (127 mg, 0.233 mmol), 1-(4-(4-aminophenyl)piperazin-1-yl)ethanone (100 mg, 0.456 mmol) and TMSCl (0.200 mL, 1.58 mmol) in nBuOH (5 mL) was stirred at 135° C. for 68 h. It was then concentrated in vacuo. The residue was purified by HPLC to give the titled compound (25 mg). MS 475 (M+H); UV 204.9, 265.1, 297.2 nm.

reactant | tert-butyl 4-((2-chloro-5-cyano-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)methyl)piperidine-1-carboxylate | 0.233 mmol, 127 mg | ClC=1N=C(C2=C(N1)N(C=C2C#N)S(=O)(=O)C2=CC=C(C)C=C2)NCC2CCN(CC2)C(=O)OC(C)(C)C | C25H29ClN6O4S
reactant | 1-(4-(4-aminophenyl)piperazin-1-yl)ethanone | 0.456 mmol, 100 mg | NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O | C12H17N3O
reactant | TMSCl | 1.58 mmol, 0.200 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | nBuOH | 5 mL | C(CCC)O | C4H10O
product | 2-(4-(4-acetylpiperazin-1-yl)phenylamino)-4-(piperidin-4-ylmethylamino)-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile | 25 mg | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)NC=1N=C(C2=C(N1)NC=C2C#N)NCC2CCNCC2 | C25H31N9O
